US06710078B2
According to the procedure of Method A, Example 1, (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with 1,5-pentanedithiol to provide 5-[2-[(5-mercaptopentyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one: 1H NMR (CDCL3) δ1.32 (m, 1H), 1.40-1.75 (m, 6H) and 1.65 and 1.68 (singlets, 3H), 2.33-2.45 (m, 2H), 2.45-2.60 (m, 2H), 3.06-3.25 (m, 2H), 4.40 (m, 1H), 5.37 and 5.39 (singlets, 1H), 7.05-7.18 (m, 2H), 7.25-7.43 (m, 6H); MS (HR-FAB) m/z 419.1180 (M+H calcd. for C22H27O2S3 419.1173).

reactant | (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | CC1(OC(=CC1=O)\C=C\C1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
reactant | 1,5-pentanedithiol | C(CCCCS)S | C5H12S2
product | 5-[2-[(5-mercaptopentyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one | SCCCCCSC(CC1=CC(C(O1)(C1=CC=CC=C1)C)=O)C1=CSC=C1 | C22H26O2S3
